US07745642B2
Description 49: (±)N-(2-(Dimethylamino)-3-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-2-methyl-1-phenylpropyl)-2,3-dimethylbenzamide diastereoisomers
The title compound (64 mg; 30%) was prepared from [2-amino-1-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)-1-methyl-2-phenylethyl]dimethylamine D48 (150 mg; 0.46 mmol), 2,3-dimethylbenzoic acid (75 mg; 0.5 mmol), PL-dicyclohexylcarbodiimide (385 mg; 0.5 mmol; Polymer Labs 1.3 mmol/g), 1-hydroxybenzotriazole (77 mg; 0.5 mmol) in DCM (5 ml) in a similar manner to that described in E1. Mass spectrum (Electrospray LC/MS): Found 455 (MH+), C27H42N2O2Si requires 454. Ret. time 2.57 and 2.61 min.

reactant | [2-amino-1-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)-1-methyl-2-phenylethyl]dimethylamine | NC(C(C)(CO[Si](C)(C)C(C)(C)C)N(C)C)C1=CC=CC=C1 | C18H34N2OSi
reactant | 2,3-dimethylbenzoic acid | 0.5 mmol, 75 mg | CC1=C(C(=O)O)C=CC=C1C | C9H10O2
reactant | dicyclohexylcarbodiimide | 0.5 mmol, 385 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 1-hydroxybenzotriazole | 0.5 mmol, 77 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | (±)N-(2-(Dimethylamino)-3-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-2-methyl-1-phenylpropyl)-2,3-dimethylbenzamide | 64 mg, 30% | CN(C(C(C1=CC=CC=C1)NC(C1=C(C(=CC=C1)C)C)=O)(CO[Si](C)(C)C(C)(C)C)C)C | C27H42N2O2Si
